US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2-[(tert-butoxycarbonyl)amino]butanoate was dissolved in 20 ml dichloromethane and 4 ml HCl in dioxane (4M) was added. The mixture was stirred 2 hours and concentrated down. The residue was washed with ether, then partition between 1M NaOH and dichloromethane. The dichloromethane layer was removed and dried with MgSO4. Sodium triacetoxyborohydride (0.61 g, 2.9 mmol) and acetaldehyde (0.33 ml, 5.8 mmol) was added. The mixture was stirred 2 days and washed with 1M NaOH. The mixture was then concentrated and purified by silica gel chromatography (40% CH2Cl2/60% EtOAc) to afford methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoate (0.075 g, 17%).

reactant | Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2-[(tert-butoxycarbonyl)amino]butanoate | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)NC(=O)OC(C)(C)C)C=C1)C)C1=CC=C(C=C1)Cl | C35H40ClN3O7
reactant | HCl | 4 ml | Cl | ClH
reactant | Sodium triacetoxyborohydride | 2.9 mmol, 0.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 5.8 mmol, 0.33 ml | C(C)=O | C2H4O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydro-quinolin-1(2H)-yl]carbonyl}phenoxy)-2-(diethylamino)butanoate | 0.075 g, 17% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)N(CC)CC)C=C1)C)C1=CC=C(C=C1)Cl | C34H40ClN3O5
